US08420851B2
A solution of {[4-(3-sec-butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester (0.8 g, 1.6 mmol) in CH2Cl2 (16 mL) was cooled to −60° C. under nitrogen atmosphere. To that 1M BBr3 solution (4.8 mL) was added dropwise. The reaction mixture was allowed to warm up to 20-25° C. over 5 h. then diluted with more CH2Cl2 (25 mL) and quenched with H2O. After stirring at 20-25° C. for 30 min, organic phase was separated, washed with H2O, brine & dried over sodium sulphate, filtered and concentrated to give crude product. The crude product was purified by column chromatography over flash silica gel (Hexane:Ethylacetate 90:10) to afford the pure product {[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester (0.77 g, 99% Yield)

reactant | {[4-(3-sec-butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester | 1.6 mmol, 0.8 g | C(C)OC(CN(C(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C24H29Cl2NO6
reactant | BBr3 | 1M, 4.8 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | {[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonyl-amino}-acetic acid ethyl ester | 0.77 g, 99% Yield | C(C)OC(CN(C(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)O)C(C)CC)Cl)=O | C23H27Cl2NO6
